Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Advanced adenocarcinoma of Mullerian origin

 
Major Surgical or Invasive Procedure:
Exploratory laparotomy, total abdominal hysterectomy, bilateral 
salpingo-oophorectomy, total omentectomy, splenectomy, PlasmaJet 
ablation of peritoneal and diaphragmatic disease, cystoscopy
 
History of Present Illness:
Ms. ___ is a ___ G3P1 with a history of HTN (non-compliant 
w/medication) who presented to ___ ED on ___ as a transfer 
from ___ with abdominal pain, bloating and concern 
for new diagnosis of intraabdominal malignancy. The patient had 
one month of increasing abdominal distension, abdominal/pelvic 
discomfort, and decreased appetite. She presented to her primary 
care providers office in ___ two weeks prior, where she 
underwent an US and had labwork drawn, was told nothing was 
wrong and was sent home. She then represented to her PCPs office 
with the same complaints and was sent to ___ for a 
CT abd/pelvis. The provider at ___ told the 
patient she had ovarian cancer with widespread disease and 
needed to be transferred to ___ for possible surgery.

She was admitted to the gynecologic oncology service on ___. 
A paracetesis confirmed adenocarcinoma of mullerian origin and 
on ___ she underwent an exploratory laparotomy, total 
abdominal hysterectomy, bilateral salpingo-oophorectomy, total 
omentectomy, splenectomy, PlasmaJet ablation of peritoneal and 
diaphragmatic disease, and cystoscopy.
 
Past Medical History:
OBHx: G3P1 (SAB at 6 wks with D&C, TAB, SVD at term, 
uncomplicated)
PGYNx:
- endorses remote hx of abnormal Pap testing (in high school),
denies colposcopy or bx; denies GYN procedures or surgeries 
aside
from D&C for SAB; denies hx of fibroids or endometriosis
- reports menarche age ___
- reports regular monthly menses, no intermenstrual bleeding
- has used IUD for contraception in the past, never on OCPs, not
using any contraception currently
PMHx: HTN (not taking losartan as prescribed)
PSHx:D&C x1
Meds: none
All: NKDA
 
Social History:
___
Family History:
FHx: 
-Mother: breast cancer in her mother (dx age ___, doing well
-Paternal aunt: breast cancer (dx in her ___), deceased.
-Denies a hx of uterine, ovarian, colon or cervical cancer in 
any
of her family members
 
Physical ___:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
General: Resting comfortable in bed, NAD
CV: RRR
Resp: decreased breath sounds at bases 
Abdominal: soft, mildly distended, nontender, absent bowel 
sounds
Extrem: pneumoboots in place, no edema

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================
General: no acutedistress , lying awake in bed, A&Ox3
CV: RRR
Lungs: CTAB
Abd: soft, mild tenderness of upper abdomen, nondistended,
normo activebowel sounds
Incision:  no visible erythema, staples removed
approximated without discharge or purulence.
Extremities: no calf tenderness/erythema, no edema

 
Pertinent Results:
___ 06:40AM BLOOD WBC-11.9* RBC-3.51* Hgb-11.5 Hct-35.1 
MCV-100* MCH-32.8* MCHC-32.8 RDW-12.5 RDWSD-45.5 Plt ___
___ 06:50AM BLOOD WBC-12.4* RBC-3.29* Hgb-10.9* Hct-33.1* 
MCV-101* MCH-33.1* MCHC-32.9 RDW-12.5 RDWSD-46.2 Plt ___
___ 08:45AM BLOOD WBC-15.3* RBC-3.33* Hgb-11.0* Hct-33.5* 
MCV-101* MCH-33.0* MCHC-32.8 RDW-12.7 RDWSD-47.2* Plt ___
___ 08:00AM BLOOD WBC-13.2* RBC-3.43* Hgb-11.4 Hct-34.2 
MCV-100* MCH-33.2* MCHC-33.3 RDW-12.6 RDWSD-45.2 Plt ___
___ 08:20AM BLOOD WBC-12.8* RBC-3.43* Hgb-11.5 Hct-33.7* 
MCV-98 MCH-33.5* MCHC-34.1 RDW-12.5 RDWSD-44.7 Plt ___
___ 07:45AM BLOOD WBC-12.6* RBC-3.15* Hgb-10.5* Hct-31.1* 
MCV-99* MCH-33.3* MCHC-33.8 RDW-12.2 RDWSD-43.6 Plt ___
___ 07:50AM BLOOD WBC-15.3* RBC-3.08* Hgb-10.4* Hct-30.9* 
MCV-100* MCH-33.8* MCHC-33.7 RDW-12.3 RDWSD-45.1 Plt ___
___ 10:36PM BLOOD WBC-15.8* RBC-2.86* Hgb-9.6* Hct-29.0* 
MCV-101* MCH-33.6* MCHC-33.1 RDW-12.3 RDWSD-45.3 Plt ___
___ 07:00AM BLOOD WBC-16.8* RBC-3.11* Hgb-10.3* Hct-32.5* 
MCV-105* MCH-33.1* MCHC-31.7* RDW-12.6 RDWSD-48.5* Plt ___
___ 08:00AM BLOOD WBC-14.1* RBC-3.33* Hgb-11.3 Hct-34.0 
MCV-102* MCH-33.9* MCHC-33.2 RDW-12.5 RDWSD-46.6* Plt ___
___ 09:38PM BLOOD WBC-14.2*# RBC-3.87* Hgb-13.3 Hct-39.9 
MCV-103* MCH-34.4* MCHC-33.3 RDW-12.4 RDWSD-46.4* Plt ___
___ 08:25AM BLOOD WBC-9.1 RBC-3.89* Hgb-13.3 Hct-38.5 
MCV-99* MCH-34.2* MCHC-34.5 RDW-12.1 RDWSD-43.9 Plt ___
___ 09:05AM BLOOD WBC-6.6 RBC-3.85* Hgb-12.9 Hct-38.7 
MCV-101* MCH-33.5* MCHC-33.3 RDW-12.0 RDWSD-44.7 Plt ___
___ 07:15AM BLOOD WBC-6.5 RBC-3.68* Hgb-12.6 Hct-36.6 
MCV-100* MCH-34.2* MCHC-34.4 RDW-11.8 RDWSD-43.6 Plt ___
___ 02:40AM BLOOD WBC-7.9 RBC-3.56* Hgb-12.2 Hct-35.1 
MCV-99* MCH-34.3* MCHC-34.8 RDW-11.9 RDWSD-43.3 Plt ___
___ 08:59PM BLOOD WBC-13.4* RBC-4.05 Hgb-13.7 Hct-40.0 
MCV-99* MCH-33.8* MCHC-34.3 RDW-12.0 RDWSD-43.9 Plt ___
___ 08:59PM BLOOD Neuts-75.0* Lymphs-15.9* Monos-7.8 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-10.06* AbsLymp-2.14 
AbsMono-1.05* AbsEos-0.08 AbsBaso-0.04
___ 06:40AM BLOOD Plt ___
___ 06:50AM BLOOD Plt ___
___ 08:45AM BLOOD Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:20AM BLOOD Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:50AM BLOOD Plt ___
___ 10:36PM BLOOD Plt ___
___ 07:00AM BLOOD Plt ___
___ 08:00AM BLOOD Plt ___
___ 09:38PM BLOOD Plt ___
___ 08:25AM BLOOD Plt ___
___ 09:05AM BLOOD Plt ___
___ 07:15AM BLOOD Plt ___
___:40AM BLOOD Plt ___
___ 08:30AM BLOOD ___ PTT-28.1 ___
___ 08:59PM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-98 UreaN-7 Creat-0.5 Na-142 K-4.7 
Cl-99 HCO3-27 AnGap-16
___ 06:50AM BLOOD Glucose-93 UreaN-5* Creat-0.4 Na-137 
K-4.4 Cl-95* HCO3-27 AnGap-15
___ 08:45AM BLOOD Glucose-98 UreaN-5* Creat-0.5 Na-138 
K-4.4 Cl-94* HCO3-28 AnGap-16
___ 08:00AM BLOOD Glucose-82 UreaN-3* Creat-0.4 Na-140 
K-4.6 Cl-97 HCO3-27 AnGap-16
___ 08:20AM BLOOD Glucose-88 UreaN-<3* Creat-0.4 Na-140 
K-4.2 Cl-96 HCO3-24 AnGap-20*
___ 07:45AM BLOOD Glucose-84 UreaN-<3* Creat-0.3* Na-140 
K-4.1 Cl-98 HCO3-24 AnGap-18*
___ 07:50AM BLOOD Glucose-79 UreaN-<3* Creat-0.3* Na-137 
K-3.9 Cl-98 HCO3-26 AnGap-13
___ 10:36PM BLOOD Glucose-89 UreaN-4* Creat-0.3* Na-135 
K-3.9 Cl-99 HCO3-26 AnGap-10
___ 07:00AM BLOOD Glucose-68* UreaN-5* Creat-0.3* Na-136 
K-4.1 Cl-98 HCO3-24 AnGap-14
___ 08:00AM BLOOD Glucose-97 UreaN-5* Creat-0.5 Na-136 
K-4.5 Cl-100 HCO3-22 AnGap-14
___ 09:38PM BLOOD Glucose-160* UreaN-4* Creat-0.5 Na-137 
K-4.7 Cl-99 HCO3-21* AnGap-17*
___ 08:25AM BLOOD Glucose-82 UreaN-5* Creat-0.4 Na-137 
K-4.5 Cl-98 HCO3-24 AnGap-15
___ 09:05AM BLOOD Glucose-129* UreaN-5* Creat-0.4 Na-140 
K-4.0 Cl-101 HCO3-26 AnGap-13
___ 07:15AM BLOOD Glucose-95 UreaN-4* Creat-0.5 Na-140 
K-3.9 Cl-100 HCO3-26 AnGap-14
___ 02:40AM BLOOD Glucose-98 UreaN-3* Creat-0.4 Na-137 
K-3.5 Cl-99 HCO3-25 AnGap-13
___ 08:59PM BLOOD Glucose-81 UreaN-6 Creat-0.5 Na-135 K-4.0 
Cl-95* HCO3-22 AnGap-18*
___ 06:40AM BLOOD Calcium-9.8 Phos-6.1* Mg-2.3
___ 06:50AM BLOOD Calcium-9.1 Phos-6.3* Mg-2.1
___ 08:45AM BLOOD Calcium-8.8 Phos-5.0* Mg-2.1
___ 08:00AM BLOOD Calcium-9.0 Phos-5.7* Mg-2.0
___ 08:20AM BLOOD Calcium-9.1 Phos-5.0* Mg-1.8
___ 07:45AM BLOOD Calcium-8.6 Phos-5.5* Mg-1.7
___ 07:50AM BLOOD Mg-1.6
___ 10:36PM BLOOD Calcium-7.9* Phos-2.9 Mg-1.6
___ 07:00AM BLOOD Calcium-8.1* Phos-3.1 Mg-1.9
___ 08:00AM BLOOD Calcium-7.8* Phos-4.3 Mg-2.2
___ 09:38PM BLOOD Calcium-8.0* Phos-4.5 Mg-1.5*
___ 08:25AM BLOOD Calcium-9.1 Phos-4.4 Mg-2.0
___ 09:05AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.0
___ 07:15AM BLOOD Calcium-9.2 Phos-4.6* Mg-1.8
___ 02:40AM BLOOD Calcium-8.6 Phos-4.1 Mg-1.7
___ 08:59PM BLOOD HCG-<5
___ 08:30AM BLOOD CEA-1.0 ___*

IMAGING:
___ Paracentesis
1. technically successful biopsy of omental mass, with a 
left-sided approach.  
2. cores were sent for pathology.  No immediate postprocedure 
complication. 
___ Pelvic US
1. The right ovary is not well-demonstrated on this exam due to 
adjacent bowel gas, but appears to have a subcentimeter 
paraovarian cyst.  A right adnexal mass cannot be excluded and 
evaluation with an MRI is recommended. 
2. The left ovary appears heterogeneous with calcifications, 
however no discrete mass is seen, demonstrates color flow. 
3. Moderate amount of complex free fluid.  Peritoneal nodularity 
again noted. 
4. Normal uterus. 
___ CT chest w/contrast
1. No evidence of suspicious lesions in the chest. 
2. Mildly prominent periesophageal lymph node is not 
pathologically enlarged, which is nonspecific. Attention on 
follow-up is recommended. 

PATHOLOGY/CYTOLOGY:
___ cytology of peritoneal fluid
1. adenocarcioma
___ omentum biopsy
1. adenocarcinoma consistent with mullerian origin
___ uterus biopsy
1. Pending
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing exploratory laparotomy, total abdominal 
hysterectomy, bilateral salpingo-oophorectomy, plasmajet 
ablation of peritoneal and diaphragmatic disease, mobilization 
of splenic flexure, splenectomy, omentectomy, and cystoscopy. 
Please see the operative report for full details.  

*)Postoperative course: Her post-operative course is detailed as 
follows. Immediately postoperatively, her pain was controlled 
with acetaminophen and an epidural. Her epidural was managed by 
the Acute Pain service. On postoperative day 3, her epidural was 
removed and she was transitioned to PO dilaudid and 
acetaminophen. Her urine output was also adequate and thus her 
foley catheter was removed.  Given that she had surgery 
involving the bowels, her diet was slowly advanced. She was 
maintained on a diet consisting of clears with supplements and 
toast and crackers. Her diet was advanced to a regular diet on 
___ when there was evidence of return of bowel function on 
postoperative day 7.  

By post-operative day 8, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

*) ___ erythema c/f cellulitis
___ there was erythema noted near patient's incision 
concerning for cellulitis so the the area was marked and a 7 day 
course of cephalexin 500mg PO q6H was started. The erythema 
decreased over the next few days and completely resolved by 
___ staples were also removed prior to discharge on 
postoperative day 9.

*) Hypertension
On postoperative day 3,  she developed hypertension which 
progressed to an episode of hypertensive urgency to 190/104. She 
received 20mg IV labetalol but her BP did not decrease so she 
then received 40mg IV labetalol and her blood pressure dropped 
to 151/76. The same day she was re-started on her home HTN 
medication (losartan 50mg PO Daily). On postoperative day 4, she 
remained hypertensive and had another episode of hypertensive 
urgency to 183/93 and received 20mg IV labetalol but her blood 
pressure did not decrease. She then declined another dose of IV 
labetalol and remained hypertensive (160s-180s/70s-90s). She 
remained on losartan 50mg PO Daily.
On postoperative day 5,a formal medicine consult was initiated 
and per their recommendations she was started on hydralazine 
25mg PO q8H x2 days and amlodipine 5mg PO Daily. On posop day 6, 
she experienced a hypotensive episode to 103/65 and her 
amlodipine was decreased to 2.5mg PO Daily. Patient's blood 
pressure remained in 140s/80s upon discharge. She was discharged 
with amlodipine 2.5 mg daily and her losartan was discontinued 
due to the fact that it did not appear to affect her blood 
pressures while she receive it. Patient was advised to follow up 
with her PCP in one week for hypertension medication management. 


*)Post splenectomy vaccinations
Patient was given vaccines on postoperative day 8 for hemophilus 
influenza B, pneumococcal 13, and meningococcal. She was 
instructed to have her PSV23 vaccine administered within ___ 
weeks or before she starts chemotherapy. She was also given post 
splenectomy precautions and counseled heavily on warning signs 
of possible infection. 

*) Post splenectomy thrombocytosis
Patient's platelet count continued to trend upward while she was 
in the hospital after her surgery. On day of discharge, her 
platelet count was 1356. Thrombocytosis is an expected change 
after a splenectomy. Per medicine team and heme onc team, there 
is no indication for intervention for thrombocytosis. Patient 
was expectantly managed for this given that platelet counts can 
take ___ days post splenectomy to peak. 

*) VTE prophylaxis: Patient received heparin while she was 
inpatient. After her epidural was removed, she was started on 
lovenox. She was discharged with enough lovenox to complete a 28 
day postoperative course of daily lovenox prophylaxis at home. 
While in the hospital, she also had pneumoboots on and was 
performing incentive spirometry. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H PRN
2.  amLODIPine 2.5 mg PO DAILY
3.  Cephalexin 500 mg PO Q6H 
4.  Docusate Sodium 100 mg PO BID constipation 
5.  Enoxaparin Sodium 40 mg SC DAILY 
6.  HYDROmorphone (Dilaudid) ___ mg PO Q3H PRN
7.  Ibuprofen 400 mg PO Q6H pain

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adenocarcinoma of mullerian origin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Abdominal instructions:  
* Take your medications as prescribed.  We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should allow your steri strips to fall off on their own.   
If they are still on after ___ days from surgery, you may 
remove them.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

*** Lovenox injections:
* Patients having surgery for cancer have risk of developing 
blood clots after surgery. This risk is highest in the first 
four weeks after surgery. You will be discharged with a daily 
Lovenox (blood thinning) medication. This is a preventive dose 
of medication to decrease your risk of a forming a blood clot. 
*Your last injection of lovenox will be on ___.

***Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

***Hypertension 
*Your blood pressure went as high as the 190s/100s while you 
were in the hospital. The losartan 50 mg that you were 
originally prescribed for your hypertension was discontinued as 
it was not controlling your blood pressure. You were started on 
amlodipine 2.5 mg daily for blood pressure control and you 
responded well to it. Please follow up with your PCP in the next 
week for an appointment to better titrate your medications. 

***Post Splenectomy Vaccination
*After having a splenectomy, you are at increased risk of 
infection for certain microorganisms. You were given the 
meningococcal vaccine (Menactra), pneumococcal 13  valent 
vaccine (Prevnar 13), and Haemophilus B conjugate vaccine. 
*YOU ARE DUE FOR YOUR PNEUMOCOCCAL 23 VALENT VACCINE in the next 
___ weeks, BEFORE your chemotherapy starts. PLEASE ensure to get 
vaccinated with the pneumococcal 23 valent vaccine in ___ weeks. 
It is very important that you receive this vaccination in a 
timely manner before your chemotherapy starts. 
*Please call ___ if you are having trouble scheduling 
your vaccination. 
*Please refer to the handout given to you for post splenectomy 
precautions and warning signs. In summary, warning signs of 
infection to be aware of and to call the office at ___ 
or 911:

___ greater than 100.4F or 38C

___ chills and/or shivering

___

___, confusion, and/or disorientation

___, vomiting, and/or diarrhea

___ abdominal pain

___ purplish red spots on the skin (petechiae) or 
larger bluish bruises

___ blood pressure, lightheadedness, or fainting 
(syncope)

___ heart rate

***Wound Cellulitis
*You developed a skin infection where your staples were for your 
abdominal incision. You were started on Keflex antibiotics on 
___, and your rash has improved while you have been receiving 
the antibiotics. Your last dose of antibiotics  completed the 
evening of ___. 

 
Followup Instructions:
___